datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]1([H:17])[C:3]([H:18])([H:19])[C:4]([H:20])([H:21])[C:5]([H:22])([H:23])[C:6]12[C:7]([H:24])[C:8]([H:25])=[C:9]([H:26])[C:10]([H:27])=[C:11]2[H:28])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([c:6]1[c:7]([H:24])[c:8]([H:25])[c:9]([H:26])[c:10]([H:27])[c:11]1[H:28])[H:17])([H:15])[H:16])([H:12])([H:13])[H:14],76.0115
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([C:7]([H:20])([H:21])[H:22])[C:8]([H:23])([H:24])[H:25])[H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([H:12])[C:2]([H:13])([H:14])[C:3]([H:15])([H:16])[C:4]([H:17])([H:18])[C:5]1([C:6]([C:7]([H:20])([H:21])[H:22])[C:8]([H:23])([H:24])[H:25])[H:19])([H:9])([H:10])[H:11],29.7482
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[H:13]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][H:13],-1.6736
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[H:14])([H:12])[H:13].[C:26]([C:27]([C:28]([H:38])([H:39])[H:40])[c:29]1[c:30]([H:41])[c:31]([H:42])[c:32]([H:43])[c:33]([H:44])[c:34]1[H:45])([H:35])([H:36])[H:37]>>[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])([C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[C:27]([C:26]([H:35])([H:36])[H:37])([C:28]([H:38])([H:39])[H:40])[c:29]1[c:30]([H:41])[c:31]([H:42])[c:32]([H:43])[c:33]([H:44])[c:34]1[H:45])[H:14])([H:12])[H:13],39.0786
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]([S:9][H:15])([H:13])[H:14])[H:12])([H:10])[H:11]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:13])[H:3].[C:6](=[C:7]([C:8]([S:9][H:15])[H:14])[H:12])([H:10])[H:11],23.012
[C:4]([C:5]([H:8])([H:9])[H:10])([H:6])[H:7].[O:0]([O:1][H:3])[H:2]>>[H:2][C:4]([C:5]([H:8])([H:9])[H:10])([H:6])[H:7].[O:0][O:1][H:3],4.3932
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[O:6][O:7][H:8]>>[C:0]([H:2])([H:3])[H:4].[O:1]([H:5])[O:6][O:7][H:8],274.65
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[c:10]1[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]1[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[c:10]1[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]1[H:20])([H:4])[H:5],2.17568
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[C:19]([C:20]([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30])([H:27])([H:28])[H:29]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])([C:7](=[C:8]([H:17])[H:18])[H:16])[C:20]([C:19]([H:27])([H:28])[H:29])([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30])[H:9],33.8904
[C:0](=[C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([C:4]([H:11])([H:12])[H:13])=[O:5])([H:6])[H:7].[O:14][O:15][H:16]>>[C:0](=[C:1]([C:2]([H:9])[H:10])[C:3]([C:4]([H:11])([H:12])[H:13])=[O:5])([H:6])[H:7].[H:8][O:14][O:15][H:16],58.19944
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:23][O:24]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:12][O:23][O:24],199.11656
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5]([C:6](=[C:7]([H:18])[H:19])[H:17])=[C:8]([C:9]([H:20])([H:21])[H:22])[C:10]([H:23])([H:24])[H:25])([H:15])[H:16])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])([H:16])[C:5]([C:6](=[C:7]([H:18])[H:19])[H:17])[C:8]1([C:9]([H:20])([H:21])[H:22])[C:10]([H:23])([H:24])[H:25])[H:11],149.871
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[C:24]([C:25]([C:26]([H:36])([H:37])[H:38])[c:27]1[c:28]([H:39])[c:29]([H:40])[c:30]([H:41])[c:31]([H:42])[c:32]1[H:43])([H:33])([H:34])[H:35]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[C:25]([C:24]([H:33])([H:34])[H:35])([C:26]([H:36])([H:37])[H:38])[c:27]1[c:28]([H:39])[c:29]([H:40])[c:30]([H:41])[c:31]([H:42])[c:32]1[H:43])[H:12],38.1999
[S:0]([H:1])[H:2].[S:3]([C:4]([c:5]1[c:6]([H:13])[c:7]([H:14])[c:8]([H:15])[c:9]([H:16])[c:10]1[H:17])[H:12])[H:11]>>[H:1][C:4]([S:3][H:11])([c:5]1[c:6]([H:13])[c:7]([H:14])[c:8]([H:15])[c:9]([H:16])[c:10]1[H:17])[H:12].[S:0][H:2],30.1248
[C:0](#[C:1][C:2]=[C:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7]>>[C:0](#[C:1][C:2]1=[C:3]([H:8])[C:4]([H:9])([H:10])[C:5]=[C:6]1[H:11])[H:7],55.77272
